US07625922B2
1-(4-(2-Amino-3-nitropyridin-4-yl-oxy)phenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (CJS 3231)
Method H3 (in DCM). 4-(4-Aminophenoxy)-3-nitropyridin-2-amine (170 mg, 0.69 mmol) was dissolved in dry DCM (5 mL) and cooled to 0° C. 4-Chloro-3-trifluoromethyl-phenyl isocyanate (153 mg, 0.69 mg) was dissolved in dry DCM (3 mL) and was added dropwise to the cooled solution. The reaction mixture was allowed to warm at room temperature and was stirred for 20 hours under argon. The resulting precipitate was recovered by filtration, washed with more DCM and dried, to afford the title compound (240 mg, 74%). 1H-NMR (δ, ppm, DMSO-d6): 5.98 (d, 1H, HPy,5, J=5.0 Hz), 7.14-7.18 (m, 4H, NH2,Py+Harom,Ph,3+5), 7.57 (d, 2H, Harom,Ph,2+6), 7.64 (broad s, 2H, Harom′), 8.00 (d, 1H, HPy,6), 8.13 (s, 1H, Harom′), 9.00 (s, 1H, NHurea,1), 9.21 (s, 1H, NHurea,3); LC-MS (m/z): 468 (M+H, 100).

reactant | 4-(4-Aminophenoxy)-3-nitropyridin-2-amine | 0.69 mmol, 170 mg | NC1=CC=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C=C1 | C11H10N4O3
reactant | 4-Chloro-3-trifluoromethyl-phenyl isocyanate | 153 mg | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(2-Amino-3-nitropyridin-4-yl-oxy)phenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 240 mg, 74% | NC1=NC=CC(=C1[N+](=O)[O-])OC1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C19H13ClF3N5O4
